US08030337B2
7-Isopropyl-2-methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one
To a solution of 2-methyl-7-(1-methylethylidene)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one (677 mg, 2.98 mmol) in methanol/ethyl acetate (5/15 mL) was added a palladium-carbon powder (68 mg), and the mixture was stirred at room temperature for 40 hr under a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (662 mg, yield 97%).

reactant | 2-methyl-7-(1-methylethylidene)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one | 2.98 mmol, 677 mg | CC=1OC2=C(N1)C=CC=1CC(C(C12)=O)=C(C)C | C14H13NO2
solvent | methanol ethyl acetate | 15 mL | CO.C(C)(=O)OCC
catalyst | palladium-carbon | 68 mg | [C].[Pd]
product | 7-Isopropyl-2-methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one | 662 mg, yield 97% | C(C)(C)C1CC=2C=CC=3N=C(OC3C2C1=O)C | C14H15NO2
